US06552068B1
1-Methanesulfonyloxy-4,4,5,5,5-pentafluoropentane (138 g, 538.62 mmol) was dissolved in dimethyl sulfoxide (1000 ml). Sodium cyanide (55.57 g, 1.077 mol) and 18-crown-6 (2.85 g, 10.77 mmol) were added to the solution followed by stirring for 2 hours at 100° C. After cooling to room temperature, water was added to the reaction mixture, which was then extracted twice with ether. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 5,5,6,6,6-pentafluorohexanecarbonitrile (108 g, Yield 100%).

reactant | 1-Methanesulfonyloxy-4,4,5,5,5-pentafluoropentane | 538.62 mmol, 138 g | CS(=O)(=O)OCCCC(C(F)(F)F)(F)F | C6H9F5O3S
reactant | Sodium cyanide | 1.077 mol, 55.57 g | [C-]#N.[Na+]
reactant | water | O | H2O
reactant | dimethyl sulfoxide | 1000 ml | CS(=O)C | C2H6OS
catalyst | 18-crown-6 | 10.77 mmol, 2.85 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 5,5,6,6,6-pentafluorohexanecarbonitrile | 108 g, Yield 100% | FC(CCCCC#N)(C(F)(F)F)F | C7H8F5N
